US07745641B2
In a similar manner to Step 1 of Example 137, 3-chloro-4-methoxymethoxybenzoic acid (2.39 g, 11.0 mmol) was dissolved in DMF (47 mL), and the solution was treated with EDCI (4.23 g, 22.1 mmol), HOBT monohydrate (1.69 g, 11.0 mmol) and cumylamine (3.20 mL, 22.0 mmol). The reaction mixture was added with water. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 3-chloro-4-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide (2.83 g, yield 77%).

reactant | 3-chloro-4-methoxymethoxybenzoic acid | 11.0 mmol, 2.39 g | ClC=1C=C(C(=O)O)C=CC1OCOC | C9H9ClO4
reactant | EDCI | 22.1 mmol, 4.23 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 11.0 mmol, 1.69 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 22.0 mmol, 3.20 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 47 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-chloro-4-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide | 2.83 g, yield 77% | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1OCOC | C18H20ClNO3
